US06809110B2
In analogy to the procedure described in example 10 d], (S)-3-{4-[2-(4-chloro-phenyl)-thiazol-4-ylmethoxy]-2,6-dimethyl-phenyl}-2-ethoxy-propionic acid methyl ester was treated with LiOH to obtain (S)-3-{4-[2-(4-chloro-phenyl)-thiazol-4-ylmethoxy]-2,6-dimethyl-phenyl}-2-ethoxy-propionic acid as light yellow solid.

reactant | (S)-3-{4-[2-(4-chloro-phenyl)-thiazol-4-ylmethoxy]-2,6-dimethyl-phenyl}-2-ethoxy-propionic acid methyl ester | COC([C@H](CC1=C(C=C(C=C1C)OCC=1N=C(SC1)C1=CC=C(C=C1)Cl)C)OCC)=O | C24H26ClNO4S
reactant | LiOH | [Li+].[OH-]
product | (S)-3-{4-[2-(4-chloro-phenyl)-thiazol-4-ylmethoxy]-2,6-dimethyl-phenyl}-2-ethoxy-propionic acid | ClC1=CC=C(C=C1)C=1SC=C(N1)COC1=CC(=C(C(=C1)C)C[C@@H](C(=O)O)OCC)C | C23H24ClNO4S
